US05559111
a) 4-(2-Amino-1,1-dimethyl-ethyl)-morpholine
A solution of 8.33 g of 2-methyl-2-morpholino-propionic acid amide in 50 ml of tetrahydrofuran is slowly added at room temperature to 3.33 g of lithium aluminium hydride in 85 ml of tetrahydrofuran. The reaction mixture is then stirred for a further 2 hours under reflux. The reaction mixture is cooled and then 5 ml of water, 6.67 ml of 2N sodium hydroxide and a further 5 ml of water are added in succession. The suspension is clarified by filtration and the crude title compound is obtained from the concentrated filtrate: 1H NMR (CDCl3), δ(ppm)=3.67 (4H, m), 2.52(2H, s), 2.48 (4H, m), 1.37 (2H, bs), 0.92 (6H, s).

reactant | 2-methyl-2-morpholino-propionic acid amide | 8.33 g | CC(C(=O)N)(C)N1CCOCC1 | C8H16N2O2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 5 ml | O | H2O
reactant | sodium hydroxide | 2N, 6.67 ml | [OH-].[Na+]
reactant | water | 5 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 85 ml | O1CCCC1 | C4H8O
product | 4-(2-Amino-1,1-dimethyl-ethyl)-morpholine | NCC(C)(C)N1CCOCC1 | C8H18N2O
